US08426404B2
Synthesis of 3-Amino-4-methyl-N-[4-(2-methyl-imidazol-1-yl)-3-trifluoromethyl-phenyl]-benzamide
To a solution of 4-(2-methyl-imidazol-1-yl)-3-trifluoromethyl-phenylamine (1.0 g, 4.15 mmol), triethylamine (1.74 mL, 12.5 mmol) in anhydrous CH2Cl2 (60 mL) at 0° C. is added 4-methyl-3-nitro-benzoyl chloride (660 μL, 4.57 mmol) dropwise. After stirring for 2 hours at room temperature, the reaction mixture is poured into 100 mL CH2Cl2 and 50 mL saturated NaHCO3 solution with rapid stirring. After 10 minutes, the mixture is partitioned in a separator funnel and extracted three times with 100 mL CH2Cl2. The organic extracts are washed with brine, and dried over MgSO4. Filtration and concentration under reduced pressure, afforded the desired compound, which is used in the next step without any further purification.

reactant | 4-(2-methyl-imidazol-1-yl)-3-trifluoromethyl-phenylamine | 4.15 mmol, 1.0 g | CC=1N(C=CN1)C1=C(C=C(C=C1)N)C(F)(F)F | C11H10F3N3
reactant | triethylamine | 12.5 mmol, 1.74 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-3-nitro-benzoyl chloride | 4.57 mmol, 660 μL | CC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H6ClNO3
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-Amino-4-methyl-N-[4-(2-methyl-imidazol-1-yl)-3-trifluoromethyl-phenyl]-benzamide | NC=1C=C(C(=O)NC2=CC(=C(C=C2)N2C(=NC=C2)C)C(F)(F)F)C=CC1C | C19H17F3N4O
